US05468774
3-(3-cyclododecyl-1-oxopropyl)-4-hydroxy-2(5H)-thiophenone
To a solution of 0.80 g of thiotetronic acid in 20 ml of dry dimethylformamide at 0° C. is added 1.1 ml (836 mg, 8.3 mmol) of triethylamine and 0.31 g (2.5 mmol) of dimethylaminopyridine. After stirring for 5 minutes, 2.0 g (8.3 mmol) of 3-cyclododecylpropanoic acid is added followed by 1.6 g (8.3 mmol) of 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride. After 10 minutes the ice bath is removed and the reaction mixture is allowed to stir overnight at room temperature. The reaction mixture is then poured into 1N hydrochloric acid and extracted 3 times with ethyl acetate. The organic layers are combined, washed with brine, filtered and evaporated to give a brown oil. The oil is subjected to flash chromatography using acidic silica gel and hexane/ethyl acetate (9:1) as the mobile phase to give an off white solid: m.p. 60°-62° C.; IR (KBr) 2940, 1700, 1630, and 1590 cm-1 : NMR (CDCl3) δ 1.33 (bs, 22 H), 1.49 (bs, 1 H), 1.58 (m, 2 H), 2.96 (m, 2H), 3.77 and 3.98 (singlets, 2 H); MS (EI) M+ 338.

reactant | thiotetronic acid | 0.80 g | C1C(=O)CSC1=O | C4H4O2S
reactant | triethylamine | 8.3 mmol, 1.1 ml, 836 mg | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 2.5 mmol, 0.31 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 3-cyclododecylpropanoic acid | 8.3 mmol, 2.0 g | C1(CCCCCCCCCCC1)CCC(=O)O | C15H28O2
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 8.3 mmol, 1.6 g | Cl.CN(CCCN=C=NCC)C
reactant | KBr | [K+].[Br-]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-(3-cyclododecyl-1-oxopropyl)-4-hydroxy-2(5H)-thiophenone | C1(CCCCCCCCCCC1)CCC(=O)C=1C(SCC1O)=O | C19H30O3S
